US08114902B2
(20-2) Synthesis of N-{5-[2-(4-{5-[hydroxy(4-methylphenyl)methyl]-2-thienyl}phenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide
To a solution of N-(5-{2-[4-(5-formyl-2-thienyl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide (0.25 g) in tetrahydrofuran (20 mL) was added dropwise a solution (1 mol/L, 1.36 mL) of p-tolylmagnesium bromide in tetrahydrofuran at 0° C. under a nitrogen atmosphere, and the mixture was stirred at the same temperature for 1 hr. 0.5M Aqueous ammonium chloride solution (30 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (0.35 g) as a brown oil.

reactant | N-(5-{2-[4-(5-formyl-2-thienyl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 0.25 g | C(=O)C1=CC=C(S1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C21H25NO4S
reactant | p-tolylmagnesium bromide | 1 mol/L, 1.36 mL | C1(=CC=C(C=C1)[Mg]Br)C
reactant | ammonium chloride | 0.5M, 30 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-{5-[2-(4-{5-[hydroxy(4-methylphenyl)methyl]-2-thienyl}phenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 0.35 g | OC(C1=CC=C(S1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)C1=CC=C(C=C1)C | C28H33NO4S
